US08445495B2
To a room temperature solution of (R)-benzyl 2-methylpiperazine-1-carboxylate (1.7 g, 7.2 mmol, 1.0 equiv) and 3-amino-2-fluorobenzaldehyde (1.0 g, 7.2 mmol, 1.0 equiv) in THF (10 mL) was added NaHB(OAc)3 (3.84 g, 18.1 mmol, 2.5 equiv) as a solid in one portion. After stirring at room temperature for 1.5 h, the reaction was complete, as determined by LCMS. The remaining reducing reagent was quenched by the careful addition of aq. satd. NaHCO3, and the mixture was diluted with EtOAc. The layers were separated and the organic layer was washed with aq. satd. NaHCO3 and brine, dried over sodium sulfate and concentrated in vacuo to provide (R)-benzyl 4-(3-amino-2-fluorobenzyl)-2-methylpiperazine-1-carboxylate (2.8 g, >100% mass recovery). The material was used without further purification. LCMS m/z (APCI)=358.5 (M+H).

reactant | (R)-benzyl 2-methylpiperazine-1-carboxylate | 7.2 mmol, 1.7 g, 1.0 equiv | C[C@H]1N(CCNC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | 3-amino-2-fluorobenzaldehyde | 7.2 mmol, 1.0 g, 1.0 equiv | NC=1C(=C(C=O)C=CC1)F | C7H6FNO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-benzyl 4-(3-amino-2-fluorobenzyl)-2-methylpiperazine-1-carboxylate | 2.8 g, >100% | NC=1C(=C(CN2C[C@H](N(CC2)C(=O)OCC2=CC=CC=C2)C)C=CC1)F | C20H24FN3O2
